US06809225B2
To a solution of 1.76 g (4.5 mmole)2-[4-methyl-2-(1-phenyl-vinyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tertiary butylester in 22 ml abs. CH2Cl2 at 0° C. 5.4 ml trifluoroacetic acid are added and the reaction solution is agitated for 1 h at the same temperature. Then the reaction mixture is reduced on the rotary evaporator and the residue is absorbed in 20 ml dichloromethane. The solution is displaced with 20 ml concentrated ammonia solution and the organic phase is separated off. The aqueous phase is extracted twice with 10 ml dichloromethane in each case and the purified organic phases are dried through MgSO4. The solvent is removed on the rotary evaporator and the raw product obtained in this way is cleaned by column chromatography on silica gel with MTBE/cyclohexane/ethanol/diisopropylamine (ratio of volumes=3/1/1+Vo.−%) as the eluant. 1.31 g (4.5 mmole, 100%)2-[4-methyl-2-(1-phenyl-vinyl)-phenoxymethyl]-pyrrolidine are obtained.

reactant | 2-[4-methyl-2-(1-phenyl-vinyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tertiary butylester | 4.5 mmole, 1.76 g | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=C(C=C(C=C1)C)C(=C)C1=CC=CC=C1 | C25H31NO3
reactant | trifluoroacetic acid | 5.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | MTBE cyclohexane ethanol diisopropylamine | CC(C)(C)OC.C1CCCCC1.C(C)O.C(C)(C)NC(C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[4-methyl-2-(1-phenyl-vinyl)-phenoxymethyl]-pyrrolidine | 4.5 mmole, 1.31 g, 100% | CC1=CC(=C(OCC2NCCC2)C=C1)C(=C)C1=CC=CC=C1 | C20H23NO
